US05409926
6-Amino-2-ethyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one
6-Nitro-2-ethyl-3-[(2'-(N-triphenylmethyltetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one (0.11 g) was hydrogenated in dioxane (2.0 ml) solution under 1 atm H2 for 1 hr in the presence of Raney nickel catalyst.

reactant | 6-Nitro-2-ethyl-3-[(2'-(N-triphenylmethyltetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one | 0.11 g | [N+](=O)([O-])C=1C=C2C(N(C(=NC2=CC1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H33N7O3
solvent | dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 6-Amino-2-ethyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one | NC=1C=C2C(N(C(=NC2=CC1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H35N7O
